US09079911B2
A solution of methyl 5-fluoro-2-(1H-pyrazol-5-yl)benzoate (415 mg, 1.9 mmol) in EtOH (10 ml) was treated with 4.0 eq of LiOH and stirred and monitored for two hours until the reaction was complete. The reaction mixture was then made to pH=5, and then the solution concentrated under reduced pressure, during which time a ppt formed. The solution was concentrated to minimum volume and cooled in ice, filtered and washed with ice water to give 5-fluoro-2-(1H-pyrazol-5-yl)benzoic acid (172 mg, 44%). 1H NMR (400 MHz, DMSO-d6): 13.03 (s, 1H), 7.71 (d, J=2.0 Hz, 1H), 7.67 (dd, J=8.3, 5.6 Hz, 1H), 7.37 (td, J=8.6, 2.9 Hz, 2H), 6.44 (d, J=2.2 Hz, 1H).

reactant | methyl 5-fluoro-2-(1H-pyrazol-5-yl)benzoate | 1.9 mmol, 415 mg | FC=1C=CC(=C(C(=O)OC)C1)C1=CC=NN1 | C11H9FN2O2
reactant | LiOH | 4.0 eq | [Li+].[OH-]
solvent | EtOH | 10 ml | CCO | C2H6O
product | 5-fluoro-2-(1H-pyrazol-5-yl)benzoic acid | 172 mg, 44% | FC=1C=CC(=C(C(=O)O)C1)C1=CC=NN1 | C10H7FN2O2
